US08937091B2
1-(3-chloropropionyl)-4-fluorobenzene 8178
2-chloroethylpropionyl chloride (0.63 g), fluorobenzene (0.48 g), and aluminium chloride (0.8 g) were reacted in nitrobenzene (2.3 mL) at 0° C., followed by treatment with hydrochloric acid to obtain the title compound (0.2 g).

reactant | 2-chloroethylpropionyl chloride | 0.63 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | fluorobenzene | 0.48 g | FC1=CC=CC=C1 | C6H5F
reactant | aluminium chloride | 0.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | nitrobenzene | 2.3 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1-(3-chloropropionyl)-4-fluorobenzene | 0.2 g | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
